US05356893
4-Bromo-N-butyl-N,3-dimethylbenzamide as a yellow oil (485 mg).
From 4-bromo-3-methylbenzoic acid (400 mg), thionyl chloride (0.4 ml) and N-methyl-1-butanamine (0.8 ml).

reactant | 4-bromo-3-methylbenzoic acid | 400 mg | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | thionyl chloride | 0.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methyl-1-butanamine | 0.8 ml | CNCCCC | C5H13N
product | 4-Bromo-N-butyl-N,3-dimethylbenzamide | BrC1=C(C=C(C(=O)N(C)CCCC)C=C1)C | C13H18BrNO
